US06713228B2
248 g of 5-norbomene-2-yl formate and 33.6 g of acrolein were reacted in the same manner asin Examplel1-1to synthesize adesired product. As aresult, 57 g of 3-oxa-tricyclo[6.2.1.02,7]undec-4-ene-10-yl formate was obtained.

reactant | 5-norbomene-2-yl formate | 248 g | C(=O)OC1C2C=CC(C1)C2 | C8H10O2
reactant | acrolein | 33.6 g | C(=O)C=C | C3H4O
product | 3-oxa-tricyclo[6.2.1.02,7]undec-4-ene-10-yl formate | 57 g | C(=O)OC1CC2C3CC=COC3C1C2 | C11H14O3
